US06420375B1
Preparation of 3-chloro-1-(5-fluoro-3-methylbenzo[b]thiophen-2-yl)propan-1-one
To a mixture of 5-fluoro-3-methylbenzo[b]thiophene (9.97 g) and 3-chloropropionyl chloride (7.45 ml) in carbon disulfide (100 ml) was added AlCl3 (16.00 g) at 0° C. The mixture was stirred at room temperature for 2 hours, poured onto crushed ice, and diluted with ethyl acetate. The extract was washed with 1N HCl, water and brine, dried over MgSO4, and concentrated. The residue was washed with ethanol and hexane to give the titled compound as colorless crystals (12.75 g).

reactant | 5-fluoro-3-methylbenzo[b]thiophene | 9.97 g | FC1=CC2=C(SC=C2C)C=C1 | C9H7FS
reactant | 3-chloropropionyl chloride | 7.45 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | AlCl3 | 16.00 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-1-(5-fluoro-3-methylbenzo[b]thiophen-2-yl)propan-1-one | 12.75 g | ClCCC(=O)C1=C(C2=C(S1)C=CC(=C2)F)C | C12H10ClFOS
